US08541457B2
Synthesis of N-Benzyl-4-(morpholinomethyl)-2-(3-phenylpropanamido)thiazole-5-carboxamide
To a solution of 2-amino-4-morpholin-4-ylmethylthiazole-5-carboxylic acid benzylamide (0.030 g, 0.09 mmol) in tetrahydrofuran (5 mL) at 0° C. was added hydrocinnamoyl chloride (0.1 mL, 0.67 mmol), 4-dimethylaminopyridine (catalytical amount) and triethylamine (0.2 mL, 1.4 mmol). The reaction mixture was allowed to warm to ambient temperature over 18 h then concentrated in vacuo. The crude product was purified by flash column chromatography eluting with ethyl acetate/hexanes (5/95 to 100/0) to afford the title compound (0.031 g); 1H NMR (DMSO-d6, 400 MHz) δ 7.40-7.15 (m, 10H), 4.46 (d, J=5.1 Hz, 2H), 3.62 (s, 2H), 3.19 (bs, 4H), 2.91 (t, J=7.6 Hz, 2H), 2.74 (t, J=8.1 Hz, 2H), 2.24 (br, s, 4H); MS (ES+) m/z 465 (M+1).

reactant | 2-amino-4-morpholin-4-ylmethylthiazole-5-carboxylic acid benzylamide | 0.09 mmol, 0.030 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)CN1CCOCC1 | C16H20N4O2S
reactant | hydrocinnamoyl chloride | 0.67 mmol, 0.1 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | triethylamine | 1.4 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Benzyl-4-(morpholinomethyl)-2-(3-phenylpropanamido)thiazole-5-carboxamide | 0.031 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(CCC1=CC=CC=C1)=O)CN1CCOCC1 | C25H28N4O3S
